US07074817B2
Ethyl{1-[4-(tert-butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate
Ethyl {1-[4-(tert-butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate was prepared from 1-[4-(tert-butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indole (2.52 g, 5.95 mmol), oxalyl chloride (1.6 mL, 18 mmol), and ethanol (5 mL) following the procedure described in Step 3 of Example 1. Purification by reverse phase HPLC using 92% acetonitrile and 8% water as the mobile phase followed by drying for 12 hours at 82° C. yielded the title compound as a light yellow solid (1.84 g, 59%), mp: 141-142° C. Mass spectrum (+ESI, [M+H]+) m/z 524; 1HNMR (500 MHz, DMSO-d6): δ 8.7 (s, 1H), 8.4 (d, 1H J=1.5 Hz), 7.75-8.0 (m, 3H), 7.6 (dd, 1H, J=8.6 Hz and 1.8 Hz), 7.45 (d, 2H, J=8.1 Hz), 7.35 (d, 2H, J=8.4 Hz), 7.25 (d, 2H, J=8.4 Hz), 5.6 (s, 2H), 4.35 (q, 2H, J=7.1 Hz), 1.35 (t, 3H, J=7.0 Hz), and 1.2 ppm (s, 9H).

reactant | 1-[4-(tert-butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indole | 5.95 mmol, 2.52 g | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C26H24F3NO
reactant | oxalyl chloride | 18 mmol, 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | Ethyl{1-[4-(tert-butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate | 1.84 g, 59% | C(C)OC(C(=O)C1=CN(C2=CC=C(C=C12)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C=C1)C(C)(C)C)=O | C30H28F3NO4
